US06703182B1
2-Hydroxyimino-3-oxo-5-phenyl-pent-4-enenitrile (4.0 g; 0.02 mol) is treated with methanesulfonyl chloride and triethylamine as described in example 3.4. The crude brown product is recrystallized from 40 ml of ethanol. 2-Methylsulfonyloxyimino-3-oxo-5-phenyl-pent-4-enenitrile (2.2 g; %) is obtained as a light ochre solid (mp 163-165° C.).

reactant | 2-Hydroxyimino-3-oxo-5-phenyl-pent-4-enenitrile | 0.02 mol, 4.0 g | ON=C(C#N)C(C=CC1=CC=CC=C1)=O | C11H8N2O2
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-Methylsulfonyloxyimino-3-oxo-5-phenyl-pent-4-enenitrile | 2.2 g | CS(=O)(=O)ON=C(C#N)C(C=CC1=CC=CC=C1)=O | C12H10N2O4S
